US06992087B2
3-cyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-6-methylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[3-cyclopropyl-5-(2,4-dichlorophenyl)-6-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.87-1.07, 1.18-1.23, 1.82, 2.27, 3.10-3.16, 3.47-3.57, 3.66-3.76, 4.40, 5.83, 5.98, 7.25-7.50; MS (ESI+) for C25H25Cl2N3O m/z 454 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[3-cyclopropyl-5-(2,4-dichlorophenyl)-6-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C)N[C@H]1[C@H](CC2=CC=CC=C12)O | C23H21Cl2N3O
product | 3-cyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-6-methylpyrazin-2-amine | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C)N[C@H]1[C@H](CC2=CC=CC=C12)OCC | C25H25Cl2N3O
